US07208633B2
bis(3,5-dimethylphenyl)phosphine-borane complex
Under a nitrogen stream, a solution of cerium chloride (2.87 g, 2.99 equivalents) in THF (20 mL) was stirred at room temperature (25° C.) for 40 min. Sodium borohydride (0.44 g, 10, 2.99 equivalents) was added, and the mixture was stirred at room temperature for 1 hr. Bis(3,5-dimethylphenyl)phosphine oxide (1.00 g, 3.89 mmol) synthesized in Reference Example 2 and lithium aluminum hydride (0.17 g, 1.16 equivalents) were successively added at −12° C. The mixture was stirred for 4 hrs. Water (10 mL) and then toluene (20 mL) were added at −10° C., and 6M-HCl (3 mL) was added at −5° C. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the organic layer was concentrated under reduced pressure. The concentrate was purified by silica gel column chromatography (10 g, toluene) and an effective fraction was concentrated under reduced pressure. The residue was recrystallized from heptane to give the title compound (0.70 g, white powder). yield 70.6%. melting point: 106.5° C.

reactant | cerium chloride | 2.87 g, 2.99 equivalents | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium borohydride | 0.44 g, 2.99 equivalents | [BH4-].[Na+]
reactant | Bis(3,5-dimethylphenyl)phosphine oxide | 3.89 mmol, 1.00 g | CC=1C=C(C=C(C1)C)P(C1=CC(=CC(=C1)C)C)=O | C16H19OP
reactant | lithium aluminum hydride | 0.17 g, 1.16 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 3 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 10 mL | O | H2O
product | bis(3,5-dimethylphenyl)phosphine borane | 0.70 g, yield 70.6% | CC=1C=C(C=C(C1)C)PC1=CC(=CC(=C1)C)C.B | InChI=1S/C16H19P.BH3/c1-11-5-12(2)8-15(7-11)17-16-9-13(3)6-14(4)10-16;/h5-10,17H,1-4H3;1H3
